US05593993
To a solution of 0.20 g (1.42 mmol) of 3-(2-hydroxyethyl)-2-fluoropyridine in 8 ml of dry CH2Cl2 cooled to -40° C. was added 0.18 ml (0.8 mmol) trifluoromethanesulfonic anhydride under an atmosphere of nitrogen. After stirring for 30 min at -40° C., 30 ml of cold (-78° C.) NH3 (l) was added. The mixture was stirred for 30 min at -40° C., and then concentrated in vacuo to afford 1.03 g of crude salt which was washed twice with 20 ml diethyl ether to yield 0.82 g of 3-(2-aminoethyl)-2-fluoropyridine as a trifluoromethanesulfonic acid salt.

reactant | 3-(2-hydroxyethyl)-2-fluoropyridine | 1.42 mmol, 0.20 g | OCCC=1C(=NC=CC1)F | C7H8FNO
reactant | trifluoromethanesulfonic anhydride | 0.8 mmol, 0.18 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | NH3 | N | H3N
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-aminoethyl)-2-fluoropyridine | 0.82 g | NCCC=1C(=NC=CC1)F | C7H9FN2
